US06458784B1
b) (±)-4-Methyl-3-oxo-7-[[[(3-pyridinyl)methyl]amino]carbonyl]-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid
A mixture of methyl (±)-4-methyl-3-oxo-7-[[[(3-pyridinyl)methyl]amino]-carbonyl]-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (161.7 mg, 0.42 mmol), 1.0 N NaOH (1.3 mL, 1.3 mmol), and MeOH (4.2 mL) was stirred at 40° C. for 3 h, then at RT overnight The resulting solution was concentrated, and the residue was dissolved in H2O and CH3CN. The solution was acidified to pH 1 with TFA and was concentrated. The residue was crystallized from H2O to afford the title compound as an off-white, crystalline solid (120.9 mg, 60%): HPLC k′ 5.7 (PRP-1®, 8% CH3CN/H2O-0.1% TFA); 1H NMR (250 MHz, DMSO-d6) δ8.60-8.83 (m, 3H), 8.15 (br d, J=8.0 Hz, 1H), 7.75 (dd, J=7.9, 5.3 Hz, 1H), 7.49-7.60 (m, 2H), 6.56 (d, J=9.1 Hz, 1H), 6.38 (br s, 1H), 5.49 (d, J=16.5 Hz, 1H), 5.01-5.16 (m, 1H), 4.37-4.65 (m, 2H), 3.82 (d, J=16.5 Hz, 1H), 2.92 (s, 3H), 2.77 (dd, J=16.7, 9.0 Hz, 1H), 2.61 (dd, J=16.7, 4.9 Hz, 1 H, partially obscured by the residual solvent signal); MS (ES) m/e 369.0 (M+H)+. Anal. Calcd for C19H20N4O4.CF3CO2H: C, 52.29; H, 4.39; N, 11.61. Found: C, 52.45; H, 4.40; N, 11.56.

reactant | methyl (±)-4-methyl-3-oxo-7-[[[(3-pyridinyl)methyl]amino]-carbonyl]-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 0.42 mmol, 161.7 mg | CN1C(C(NC2=C(C1)C=C(C=C2)C(=O)NCC=2C=NC=CC2)CC(=O)OC)=O | C20H22N4O4
reactant | NaOH | 1.3 mmol, 1.0 N, 1.3 mL | [OH-].[Na+]
solvent | MeOH | 4.2 mL | CO | CH4O
product | (±)-4-Methyl-3-oxo-7-[[[(3-pyridinyl)methyl]amino]carbonyl]-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid | CN1C(C(NC2=C(C1)C=C(C=C2)C(=O)NCC=2C=NC=CC2)CC(=O)O)=O | C19H20N4O4
